US06962923B2
4-(1,3-benzodioxol-5-yl)-1-benzyl-3-methoxy-1H-pyrazol-5-amine
Cesium carbonate (1.05 g) and methyl iodide (0.46 g) were sequentially added at room temperature under an atmosphere of nitrogen to a solution of 5-amino-4-(1,3-benzodioxol-5-yl)-1-benzyl-1H-pyrazol-3-ol (1.0 g) (Preparation 59) in anhydrous dimethylformamide (10 ml). After 10 h, the reaction mixture was diluted water (100 ml) and the mixture was extracted with ether (3×100 ml). The organic fractions were washed with brine (100 ml), dried over magnesium sulfate, and concentrated under reduced pressure. The oily residue was purified by column chromatography (silica, 50 g) eluted with hexane:ethyl acetate (1:1) yielding the title compound as a white solid (260 mg).

reactant | Cesium carbonate | 1.05 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 0.46 g | CI | CH3I
reactant | 5-amino-4-(1,3-benzodioxol-5-yl)-1-benzyl-1H-pyrazol-3-ol | 1.0 g | NC1=C(C(=NN1CC1=CC=CC=C1)O)C1=CC2=C(OCO2)C=C1 | C17H15N3O3
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(1,3-benzodioxol-5-yl)-1-benzyl-3-methoxy-1H-pyrazol-5-amine | 260 mg | O1COC2=C1C=CC(=C2)C=2C(=NN(C2N)CC2=CC=CC=C2)OC | C18H17N3O3
